US05772990
8.5 g of 2-amino-4-butylamino-6-chloropyrimidine are dissolved in 150 ml of ethanol. 19.95 g of meta-chloroperbenzoic acid are added dropwise as solution in 150 ml of ethanol. The reaction mixture is stirred at room temperature for 2 hours. 250 ml of water are added and ethanol is then evaporated off. The pH is adjusted to 1 with concentrated hydrochloric acid. After 1 hour's stirring, the precipitate is filtered off on sintered glass, rinsed with 50 ml of water and discarded. The pH of the solution is adjusted to 8 by adding sodium hydroxide. The mixture is extracted with 3×100 ml of dichloromethane. The organic phase is dried over sodium sulfate and then evaporated to dryness. The precipitate obtained is recrystallized from 50 ml of acetonitrile. 2.35 g of 2-amino-4-butylamino-6-chloropyrimidine 3-oxide are obtained.

reactant | 2-amino-4-butylamino-6-chloropyrimidine | 8.5 g | NC1=NC(=CC(=N1)NCCCC)Cl | C8H13ClN4
reactant | meta-chloroperbenzoic acid | 19.95 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 250 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-4-butylamino-6-chloropyrimidine 3-oxide | 2.35 g, Yield=26% | NC1=NC(=CC(=[N+]1[O-])NCCCC)Cl | C8H13ClN4O
